US07456218B2
3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)-2-fluorophenyl]propanoic acid hydrochloride
To a mixture of ethyl 3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate (1.30 g, 2.46 mmol), methanol (6 mL) and tetrahydrofuran (10 mL) was added 1 N sodium hydroxide aqueous solution (4.9 mL) at room temperature with stirring, and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was neutralized with 1 N hydrochloric acid, diluted with ethyl acetate, washed with saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-ethyl acetate) to give an oil. The oil was dissolved in ethyl acetate and 4 N hydrogen chloride-ethyl acetate solution was added. The precipitated crystals were collected by filtration, washed and dried to give the title compound (1.14 g, yield 86%) as colorless crystals.

reactant | ethyl 3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate | 2.46 mmol, 1.30 g | CC1=C(C(=CC(=C1)OCC1=NC(=CC=C1)C)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F | C33H34FNO4
reactant | sodium hydroxide | 1 N, 4.9 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrogen chloride-ethyl acetate | 4 N | C(C)(=O)OCC.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | 3-[4-({2′,6′-dimethyl-4′-[(6-methylpyridin-2-yl)methoxy]biphenyl-3-yl}methoxy)-2-fluorophenyl]propanoic acid hydrochloride | 1.14 g, yield 86% | Cl.CC1=C(C(=CC(=C1)OCC1=NC(=CC=C1)C)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)O)F | InChI=1S/C31H30FNO4.ClH/c1-20-14-28(37-19-26-9-4-6-22(3)33-26)15-21(2)31(20)25-8-5-7-23(16-25)18-36-27-12-10-24(29(32)17-27)11-13-30(34)35;/h4-10,12,14-17H,11,13,18-19H2,1-3H3,(H,34,35);1H
